US08492582B2
Potassium carbonate (1.2 g) and benzyl bromide (0.79 mL) were sequentially added to an N,N-dimethylformamide (5 mL) solution of 5-formyl-2-hydroxybenzoic acid (0.50 g), followed by stirring at room temperature for 10 minutes and then at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, the solid substance was collected by filtration to obtain 0.93 g of benzyl 2-(benzyloxy)-5-formylbenzoate as a white solid.

reactant | Potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.79 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 5-formyl-2-hydroxybenzoic acid | 0.50 g | C(=O)C=1C=CC(=C(C(=O)O)C1)O | C8H6O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzyl 2-(benzyloxy)-5-formylbenzoate | 0.93 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C=O | C22H18O4
